US09126931B2
8-Methoxy-10,10-dimethyl-10H-11-oxa-2-aza-benzo[b]fluoren-5-one
8-Methoxy-10,10-dimethyl-5,10-dihydro-11-oxa-2-aza-benzo[b]fluorene (Compound GT15-10, 20 mg) was dissolved in acetonitrile (0.2 ml) and water (0.15 ml), added with sodium chlorite (16 mg) and N-hydroxyphthalimide (2.3 mg), and the mixture was stirred at 40° C. for 40 min. To the reaction mixture, ethyl acetate was added. The organic layer was washed with saturated aqueous solution of sodium bicarbonate and saturated brine, and then concentrated under reduced pressure. The resulting residues were purified by silica gel column (ethyl acetate/hexane) to obtain the title compound (12 mg, 57%).

reactant | 8-Methoxy-10,10-dimethyl-5,10-dihydro-11-oxa-2-aza-benzo[b]fluorene | 20 mg | COC=1C=CC2=C(C(C=3OC=4C=NC=CC4C3C2)(C)C)C1 | C18H17NO2
reactant | sodium chlorite | 16 mg | Cl(=O)[O-].[Na+]
reactant | N-hydroxyphthalimide | 2.3 mg | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 0.2 ml | C(C)#N | C2H3N
solvent | water | 0.15 ml | O | H2O
product | 8-Methoxy-10,10-dimethyl-10H-11-oxa-2-aza-benzo[b]fluoren-5-one | 12 mg, 57% | COC=1C=CC2=C(C(C=3OC=4C=NC=CC4C3C2=O)(C)C)C1 | C18H15NO3
